US09340546B2
To a solution of tert-butyl (3aS)-1,1-dioxo-2,3,3a,4,6,7-hexahydroisothiazolo[2,3-a]pyrazine-5-carboxylate (360 mg, 1.303 mmol) in DCM (5 mL) at 0° C. was added TFA (1.25 mL, 16.22 mmol) dropwise and the reaction was stirred and warmed slowly to ambient temperature over 45 mins. The reaction mixture was concentrated in vacuo and the residue was adsorbed onto a pre-wetted (methanol/DCM (1:1), 10 mL) SCX-2 cartridge (10 g) and flushed with DCM/methanol (1:1, 50 mL) and then the basic components eluted with 2 M ammonia in methanol (50 mL). The basic eluent was evaporated to dryness to afford (S)-hexahydro-2H-isothiazolo[2,3-a]pyrazine 1,1-dioxide as a colourless oil (192 mg, 84%).

reactant | tert-butyl (3aS)-1,1-dioxo-2,3,3a,4,6,7-hexahydroisothiazolo[2,3-a]pyrazine-5-carboxylate | 1.303 mmol, 360 mg | O=S1(CC[C@@H]2N1CCN(C2)C(=O)OC(C)(C)C)=O | C11H20N2O4S
reactant | TFA | 16.22 mmol, 1.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-hexahydro-2H-isothiazolo[2,3-a]pyrazine 1,1-dioxide | 192 mg, 84% | S1(CC[C@@H]2N1CCNC2)(=O)=O | C6H12N2O2S
